US04179277
21.1 g (0.1 mol) of 4,5-dichloro-imidazole-2-thiocarboxylic acid S-methyl ester were boiled with 10.8 g (0.1 mol) of phenylhydrazine in 150 ml of ethanol for 4 hours under reflux. The cooled reaction mixture was mixed with 500 ml of water and the crystals which had separated out were filtered off and dried. 13.5 g (50% of theory) of 4,5-dichloro-imidazole-2-carboxylic acid N'-phenyl-hydrazide with a melting point of 229°-230° C. (from ethyl acetate) were obtained.

reactant | 4,5-dichloro-imidazole-2-thiocarboxylic acid S-methyl ester | 0.1 mol, 21.1 g | CSC(=O)C=1NC(=C(N1)Cl)Cl | C5H4Cl2N2OS
reactant | phenylhydrazine | 0.1 mol, 10.8 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | water | 500 ml | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 4,5-dichloro-imidazole-2-carboxylic acid N'-phenyl-hydrazide | 13.5 g, 50% | C1(=CC=CC=C1)NNC(=O)C=1NC(=C(N1)Cl)Cl | C10H8Cl2N4O
